### ISSUE TITLE
`fun_prop` for `ResToImagAxis.Real/Pos/EventuallyPos`

### ISSUE THREAD

**Issue by seewoo5** [thefundamentaltheor3m/Sphere-Packing-Lean#276]
Add `fun_prop` tags to the theorems on `ResToImagAxis.Real/Pos/EventuallyPos`. Then after #269 merged and we have sorry-free proofs of `H₂_imag_axis_real` and `H₄_imag_axis_real` (and similar theorems for positivity), then this will allow us to do
```lean
theorem G_imag_axis_real : ResToImagAxis.Real G := by
  unfold G
  fun_prop

theorem G_imag_axis_pos : ResToImagAxis.Pos G := by
  unfold G
  fun_prop (disch := positivity)
```

Depends on #275

**Comment by seewoo5** [comment]
propose #279
